US05420129
1 g of 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-chloromethyl-2-(morpholin-4-yl)-pyrimidin-4-yl]-benzenesulphonamide was added to a sodium glycolate solution from 2.5 g of ethylene glycol and 0.12 g of sodium. The reaction mixture was stirred at 80° C. under argon for 72 hours. Thereafter, the ethylene glycol was distilled off and the residue was partitioned between ethyl acetate and 1 N hydrochloric acid. The organic phase was washed with water, dried over sodium sulphate and the solvent was distilled off. The residue was chromatographed over silica gel with ether. There was obtained 0.85g of 4-tert-butyl-N-[5-(2-chloro-5methoxy-phenoxy)-6-(2-hydroxy-ethoxymethyl)-2-(morpholin-4-yl)-pyrimidin-4-yl]-benzenesulphonamide. m.p 162°-164° C., MS: M=606.

reactant | 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-chloromethyl-2-(morpholin-4-yl)-pyrimidin-4-yl]-benzenesulphonamide | 1 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC(=C1)OC)Cl)CCl)N1CCOCC1 | C26H30Cl2N4O5S
reactant | sodium glycolate | C(CO)(=O)[O-].[Na+]
reactant | sodium | 0.12 g | [Na] | Na
solvent | ethylene glycol | 2.5 g | C(CO)O | C2H6O2
product | 4-tert-butyl-N-[5-(2-chloro-5methoxy-phenoxy)-6-(2-hydroxy-ethoxymethyl)-2-(morpholin-4-yl)-pyrimidin-4-yl]-benzenesulphonamide | 0.85g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC(=C1)OC)Cl)COCCO)N1CCOCC1 | C28H35ClN4O7S
